US07759385B2
2-(4-dimethylamino-4-phenylcyclohexylidene)-1-[4-(5-methoxy-1H-indol-3-yl)-3,6-dihydro-2H-pyridine-1-yl]-ethanone hydrochloride
2-(4-dimethylamino-4-phenylcyclohexylidene)-1-[4-(5-methoxy-1H-indol-3-yl)-3,6-dihydro-2H-pyridine-1-yl]-ethanone (252 mg, 0.536 mmole) was suspended in ethanol (20 ml) and 5M isopropanolic hydrochloric acid (0.214 ml, 1.07 mmole) was added. The hydrochloride precipitated out from the clear solution and after 1 hour was isolated as a colourless solid (222 mg, 82%) with an m.p. of 175°-178° C. (Example 28).

reactant | 2-(4-dimethylamino-4-phenylcyclohexylidene)-1-[4-(5-methoxy-1H-indol-3-yl)-3,6-dihydro-2H-pyridine-1-yl]-ethanone | 0.536 mmole, 252 mg | CN(C1(CCC(CC1)=CC(=O)N1CCC(=CC1)C1=CNC2=CC=C(C=C12)OC)C1=CC=CC=C1)C | C30H35N3O2
reactant | hydrochloric acid | 1.07 mmole, 5M, 0.214 ml | Cl | ClH
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2-(4-dimethylamino-4-phenylcyclohexylidene)-1-[4-(5-methoxy-1H-indol-3-yl)-3,6-dihydro-2H-pyridine-1-yl]-ethanone hydrochloride | 222 mg, 82% | Cl.CN(C1(CCC(CC1)=CC(=O)N1CCC(=CC1)C1=CNC2=CC=C(C=C12)OC)C1=CC=CC=C1)C | InChI=1S/C30H35N3O2.ClH/c1-32(2)30(24-7-5-4-6-8-24)15-11-22(12-16-30)19-29(34)33-17-13-23(14-18-33)27-21-31-28-10-9-25(35-3)20-26(27)28;/h4-10,13,19-21,31H,11-12,14-18H2,1-3H3;1H
